* source AMPLI SOURCE COMMUNE
V_VDD         VDD 0 10V
R_RD         OUT VDD ???
R_R1         N14456 VDD 7.56Meg
R_R2         0 N14456 2.44Meg
V_V1         IN 0  AC 1V
+SIN 0 {Vin} 10kHz 0 0 0
C_C1         N14456 IN 900p TC=0
C_C2         OUT N18848  100u  TC=0,0 
R_RL         0 N18848  {RLval} TC=0,0 
V_VGS         N20556 0 1V
M_M1         OUT N14456 0 0 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M2         VDD N20556 0 0 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
.PARAM  vin=1v rlval=1000meg
