* source LABO1
M_M1         N14420 N14424 0 0 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
V_V1         N14420 0 10Vdc
V_V2         N14424 0 0Vdc
